US04367238
2-[2-Methoxy-3-(2-chlorophenylthio)phenyl]propionic acid (1.9 g), acetic anhydride (5 ml) and hydriodic acid (58%, 10 ml) were treated in a similar manner to that of Example 21-(9) to give oily 3-methyl-7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one (1.4 g). This product was subjected to column chromatography (silica gel 30 g, benzene), and the resultant oily substance was crystallized with ethanol to give crystaline product (1.2 g), mp. 63°-64° C.

reactant | 2-[2-Methoxy-3-(2-chlorophenylthio)phenyl]propionic acid | 1.9 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)C(C(=O)O)C | C16H15ClO3S
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 10 ml | I | HI
product | 3-methyl-7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one | 1.4 g | CC1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)Cl)=O | C15H11ClO2S
